Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo M w/ right superior and inferior pubic rami fractures s/p
fall from bike onto right side today.  Severe pain with ROM and
adduction.  Not able to ambulate due to pain.  Also has scrape 
of
his Rt forearm.  

 
Physical Exam:
NAD
RRR
CTAB
S/NT/ND
RLE: sensation intact to light touch. Motor intact.
LLE: sensation intact to light touch. Motor intact.
Pelvis: no rotational instability. no pain with lateral 
compression.
 
Brief Hospital Course:
Pt. was admitted after a fall of a bike on ___ for pain 
control. He has superior/inferior non displaced pubic rami 
fracture and non displaced sacral fracture. His fractures are 
stable and do not need surgery. He was admitted for pain control 
and working with ___. He was unable to WBAT and therefore is 
being discharged to a rehabilitation facility.
 
Discharge Medications:
1. diazepam 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for spasm/pain.  
2. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 hours) 
as needed for pain.  
3. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
6. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right superior pubic ramus non displaced fracture
right non displaced sacral fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
-Continue to be full weight bearing on both legs

-Take all medications as instructed

-You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___ 2. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.

 

- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.

 

If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.

Physical Therapy:
WBAT bilateral lower extremities
Treatments Frequency:
no incisions so no need for treatments.
 
Followup Instructions:
___